US07435815B2
4-tert-Butyl-N-(6-methyl-pyridin-3-yl)-benzenesulfonamide
prepared by reaction of 6-methyl-pyridin-3-ylamine with 4-tert-butyl-benzene-sulfonyl chloride

reactant | 6-methyl-pyridin-3-ylamine | CC1=CC=C(C=N1)N | C6H8N2
reactant | 4-tert-butyl-benzene-sulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-(6-methyl-pyridin-3-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)C | C16H20N2O2S
